US07566724B2
In the same manner as in Example 1, 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester (139 mg) was reacted with N-(cyclopropylmethyl)-N-(4-iodophenyl)pyrimidin-2-amine (162 mg) to obtain (E)-5-[4-(cyclopropylmethyl-pyrimidin-2-ylamino)phenyl]-2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester (167 mg). Column chromatography (silica gel, eluent: hexane/ethyl acetate=1/1) was used for purification.

reactant | 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester | 139 mg | COC(C(CC=C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C13H13Cl2NO3
reactant | N-(cyclopropylmethyl)-N-(4-iodophenyl)pyrimidin-2-amine | 162 mg | C1(CC1)CN(C1=NC=CC=N1)C1=CC=C(C=C1)I | C14H14IN3
product | (E)-5-[4-(cyclopropylmethyl-pyrimidin-2-ylamino)phenyl]-2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester | 167 mg | COC(C(C\C=C\C1=CC=C(C=C1)N(C1=NC=CC=N1)CC1CC1)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C27H26Cl2N4O3
